US06797823B1
N-{2-Chloro-4-[(7-{3-[di(2-hydroxyethyl)-amino]propoxy}-6-methoxy-4-quinolyl)oxy]phenyl}-N′-propylurea
A starting compound (N-(4-{[7-(3-bromopropoxy)-6-methoxy-4-quinolyl]oxy}-2-chlorophenyl)-N′-propylurea, 52 mg), potassium carbonate (138 mg), and diethanolamine (53 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 41 mg (yield 82%) of the title compound.

reactant | N-(4-{[7-(3-bromopropoxy)-6-methoxy-4-quinolyl]oxy}-2-chlorophenyl)-N′-propylurea | BrCCCOC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl)OC | C23H25BrClN3O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethanolamine | 53 mg | N(CCO)CCO | C4H11NO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-{2-Chloro-4-[(7-{3-[di(2-hydroxyethyl)-amino]propoxy}-6-methoxy-4-quinolyl)oxy]phenyl}-N′-propylurea | 41 mg, yield 82% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCCN(CCO)CCO)NC(=O)NCCC | C27H35ClN4O6
